datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc(-c2ncc(-c3ccc([NH2:10])cc3)o2)cc1.O=C(C1=C([O:21][H:20])C(=O)c2ccccc2C1=O)c1ccccc1>>COc1ccc(-c2ncc(-c3ccc([NH2+:10][H:20])cc3)o2)cc1.O=C(C1=C([O-:21])C(=O)c2ccccc2C1=O)c1ccccc1 10=20;20,21=21",
"CC[C@]1(O)C[C@@H](C)[NH:10][C@H]2CCCC[C@@H]21.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC[C@]1(O)C[C@@H](C)[NH+:10]([H:20])[C@H]2CCCC[C@@H]21.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Nc1cc([NH2+:21][H:20])ccc1O.c1coc(CNc2nc[n:10]c3[nH]ncc23)c1>>Nc1cc([NH2:21])ccc1O.c1coc(CNc2nc[n+:10]([H:20])c3[nH]ncc23)c1 10=20;20,21=21",
"CC1=CN([C@@H]2C[C@@H](O)[C@H](CO)O2)C(=O)[N-:10]C1=S.Cc1cc([N+](=O)[O-])ccc1[O:21][H:20]>>CC1=CN([C@@H]2C[C@@H](O)[C@H](CO)O2)C(=O)[N:10]([H:20])C1=S.Cc1cc([N+](=O)[O-])ccc1[O-:21] 10=20;20,21=21",
"[O-]c1c(O)cccc1[O-:10].c1ccc2c(c1)nc[n:21]2[H:20]>>[O-]c1c(O)cccc1[O:10][H:20].c1ccc2c(c1)nc[n-:21]2 10=20;20,21=21",
"O=S(=O)(c1ccccc1)[N:21](c1cccc(F)c1)[H:20].O=S1(=O)C=C([O-:10])c2ccccc21>>O=S(=O)(c1ccccc1)[N-:21]c1cccc(F)c1.O=S1(=O)C=C([O:10][H:20])c2ccccc21 10=20;20,21=21",
"Clc1cccc2ccc([O:21][H:20])cc12.Nc1ncc2c(n1)nc(-c1ccccc1)[n-:10]2>>Clc1cccc2ccc([O-:21])cc12.Nc1ncc2c(n1)nc(-c1ccccc1)[n:10]2[H:20] 10=20;20,21=21",
"CCCCCCCCCC[N:10](CC(C)O)CC(C)O.O=C1C=C(c2ccc([O:21][H:20])cc2)Oc2ccccc21>>CCCCCCCCCC[N+:10](CC(C)O)(CC(C)O)[H:20].O=C1C=C(c2ccc([O-:21])cc2)Oc2ccccc21 10=20;20,21=21",
"Cc1c[n+:21]([H:20])c2c(C)ccc([N+](=O)[O-])c2c1NCCC[NH+](C)C.O=S1(=O)N=C[N-:10]c2ccncc21>>Cc1c[n:21]c2c(C)ccc([N+](=O)[O-])c2c1NCCC[NH+](C)C.O=S1(=O)N=C[N:10]([H:20])c2ccncc21 10=20;20,21=21",
"CC[N:10](CC)CC[S-].COc1ccc(-c2oc(-c3ccccc3)c[n+:21]2[H:20])cc1>>CC[N+:10](CC)(CC[S-])[H:20].COc1ccc(-c2oc(-c3ccccc3)c[n:21]2)cc1 10=20;20,21=21",
"CCCC(C)C1(CC)C(=O)N=C([O-])[N-:10]C1=O.O=C(c1cccc(Oc2ccccc2)c1)[O:21][H:20]>>CCCC(C)C1(CC)C(=O)N=C([O-])[N:10]([H:20])C1=O.O=C(c1cccc(Oc2ccccc2)c1)[O-:21] 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1ccc2c(CC[NH2:10])c[nH]c2c1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1ccc2c(CC[NH2+:10][H:20])c[nH]c2c1 10=20;20,21=21",
"O=[N+]([O-])c1ccc2c[n:10][nH]c2c1.[NH3+]c1ccccc1O[C@H]1O[C@@H](C(=O)[O:21][H:20])[C@H](O)[C@@H](O)[C@@H]1O>>O=[N+]([O-])c1ccc2c[n+:10]([H:20])[nH]c2c1.[NH3+]c1ccccc1O[C@H]1O[C@@H](C(=O)[O-:21])[C@H](O)[C@@H](O)[C@@H]1O 10=20;20,21=21",
"O=C(c1cc(Cl)co1)[O-:10].c1nc2c(NC3CCCCC3)nc[n+:21]([H:20])c2n1C1CCCCC1>>O=C(c1cc(Cl)co1)[O:10][H:20].c1nc2c(NC3CCCCC3)nc[n:21]c2n1C1CCCCC1 10=20;20,21=21",
"C[NH+]1CCCC1c1c[n+:21]([H:20])cc2[nH]c3ccccc3c12.Nc1ccc(S(=O)(=O)[N-:10]c2ccc(S(N)(=O)=O)cc2)cc1>>C[NH+]1CCCC1c1c[n:21]cc2[nH]c3ccccc3c12.Nc1ccc(S(=O)(=O)[N:10](c2ccc(S(N)(=O)=O)cc2)[H:20])cc1 10=20;20,21=21",
"Cc1nn(-c2ccccc2)cc1C(=O)[O:21][H:20].NCCC[NH:10]CCO>>Cc1nn(-c2ccccc2)cc1C(=O)[O-:21].NCCC[NH+:10](CCO)[H:20] 10=20;20,21=21",
"C[NH+](C)Cc1cc(Br)ccc1[O:21][H:20].[NH3+]CCCCCC(=O)[O-:10]>>C[NH+](C)Cc1cc(Br)ccc1[O-:21].[NH3+]CCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CCCCCCCC[NH:10]CCC(=O)[O-].C[NH+](C)CCCCNc1cc[n+:21]([H:20])c2cccc([N+](=O)[O-])c12>>CCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].C[NH+](C)CCCCNc1cc[n:21]c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"CC(=N[N+](C)(C)C)[O:21][H:20].Nc1nc([O-:10])[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)cc1CO>>CC(=N[N+](C)(C)C)[O-:21].Nc1nc([O:10][H:20])[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)cc1CO 10=20;20,21=21",
"CC[C@]1(O)C[C@@H](C)[NH:10][C@H]2CCCC[C@@H]21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[C@]1(O)C[C@@H](C)[NH+:10]([H:20])[C@H]2CCCC[C@@H]21.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cn1cnc2c1C(=S)NC(=O)[N:21]2[H:20].O=[N+]([O-])c1c[n:10]c([O-])[nH+]c1[O-]>>Cn1cnc2c1C(=S)NC(=O)[N-:21]2.O=[N+]([O-])c1c[n+:10]([H:20])c([O-])[nH+]c1[O-] 10=20;20,21=21",
"CC(C)n1c(N)[n+:21]([H:20])c2ccc(C(=CC(N)=O)c3cccc(F)c3F)cc21.CCCCCC/C=N/[O-:10]>>CC(C)n1c(N)[n:21]c2ccc(C(=CC(N)=O)c3cccc(F)c3F)cc21.CCCCCC/C=N/[O:10][H:20] 10=20;20,21=21",
"CC[N:10](CCO)c1ccc(N)cc1.[SH2+]c1cccc2c1ccc[n+:21]2[H:20]>>CC[N+:10](CCO)(c1ccc(N)cc1)[H:20].[SH2+]c1cccc2c1ccc[n:21]2 10=20;20,21=21",
"CCCCCCCC[NH2:10].COC(O)(C(F)(F)F)[O:21][H:20]>>CCCCCCCC[NH2+:10][H:20].COC(O)(C(F)(F)F)[O-:21] 10=20;20,21=21",
"CC(Cl)C(=O)[O-:10].Nc1ccc2cc3cc(Cl)ccc3[n+:21]([H:20])c2c1>>CC(Cl)C(=O)[O:10][H:20].Nc1ccc2cc3cc(Cl)ccc3[n:21]c2c1 10=20;20,21=21",
"CCCC1(Br)C(=O)NC(=O)[N:21]([H:20])C1=O.O=C1C[C@H]2OCC=C3C[N:10]4CC[C@@]56c7ccccc7N1[C@@H]5[C@@H]2[C@@H]3C[C@H]64>>CCCC1(Br)C(=O)NC(=O)[N-:21]C1=O.O=C1C[C@H]2OCC=C3C[N+:10]4([H:20])CC[C@@]56c7ccccc7N1[C@@H]5[C@@H]2[C@@H]3C[C@H]64 10=20;20,21=21",
"CC(=O)n1cc[n:10]c1.CC1CC(=O)N([O:21][H:20])C1(C)C>>CC(=O)n1cc[n+:10]([H:20])c1.CC1CC(=O)N([O-:21])C1(C)C 10=20;20,21=21",
"C1CC[NH:10]C1.O=C([O-])c1cc([N+](=O)[O-])ccc1[O:21][H:20]>>C1CC[NH+:10]([H:20])C1.O=C([O-])c1cc([N+](=O)[O-])ccc1[O-:21] 10=20;20,21=21",
"Cc1ccc(C(=O)[O:21][H:20])[nH]1.O=C(c1ccncc1)[NH-:10]>>Cc1ccc(C(=O)[O-:21])[nH]1.O=C(c1ccncc1)[NH:10][H:20] 10=20;20,21=21",
"N#Cc1cccc(C(=O)[O-:10])c1.OCC(S)C[S:21][H:20]>>N#Cc1cccc(C(=O)[O:10][H:20])c1.OCC(S)C[S-:21] 10=20;20,21=21",
